US05032594
1-Benzyl-3-propyl-1,2,3,4-tetrahydro-5H-imidazo[2',1':5,1]pyrazolo[3,4-d]pyrimidine-2,4-dione
A solution of 1-benzyl-3-propyl-1,2,3,4,6,7-hexahydro-5H-imidazo [2',1': 5,1]- pyrazolo[3,4-d]pyrimidine-2,4-dione (4.5 g) and benzoyl peroxide (5.0 g) in chloroform (100 ml) was refluxed for 18 hours. The reaction mixture was concentrated to dryness, and the residue was dissolved in chloroform. The solution was washed with an aqueous solution of sodium carbonate and water, followed by drying and concentration to dryness. The residue was purified by flash chromatography. Recrystallization of thus obtained crystals from methylene chloride/hexane afforded colorless crystals (2.3 g, 52%), m.p. 290°-292° C.

reactant | 1-benzyl-3-propyl-1,2,3,4,6,7-hexahydro-5H-imidazo [2',1': 5,1]- pyrazolo[3,4-d]pyrimidine-2,4-dione | 4.5 g | C(C1=CC=CC=C1)N1C(N(C(C=2C1=NN1C2NCC1)=O)CCC)=O | C17H19N5O2
reactant | benzoyl peroxide | 5.0 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzyl-3-propyl-1,2,3,4-tetrahydro-5H-imidazo[2',1':5,1]pyrazolo[3,4-d]pyrimidine-2,4-dione | C(C1=CC=CC=C1)N1C(N(C(C=2C1=NN1C2NC=C1)=O)CCC)=O | C17H17N5O2
